US07329767B2
N-Ethyl-2E,4E-hexadienamide
2E,4E-Hexadienoic acid 1 eq, ethyl chloroformate 1.12 eq, triethylamine 1.2 eq, ethylamine 1.5 eq as a 2.0M solution in THF, quench with 10% sodium chloride solution, yield=26%. 1.16 ppm (t, 3H, J=7.27 Hz), 1.82 ppm (d, 3H, J=6.09 Hz), 3.36 ppm (q, 2H, J=7.26 Hz, of d, J=5.73 Hz), 5.77 ppm (d, 1H, J=14.96 Hz), 5.93 ppm (br. s, 1H), 6.01-6.18 ppm (m, 2H), 7.19 ppm (d, 1H, J=14.94 Hz, oft, J=10.14 Hz).

reactant | 2E,4E-Hexadienoic acid | 1 eq | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | ethyl chloroformate | 1.12 eq | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 1.5 eq | C(C)N | C2H7N
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | N-Ethyl-2E,4E-hexadienamide | yield=26% | C(C)NC(\C=C\C=C\C)=O | C8H13NO
